US04011277
In a 100 ml autoclave were placed 10 g of 2,6,10,15,19,23-hexamethyltetracosa-11,13-diyne-10,15-diol, 20 ml of ethyl alcohol and 1 g of W-5 type Raney nickel and the mixture was hydrogenated at 100° C under a hydrogen pressure of 50 ~ 60 kg/cm2 for 18 hours to give 2,6,10,15,19,23-hexamethyltetracosane-10,15-diol. The catalyst was filtered off and 1 g of Ni-catalyst supported on diatomaceous earth and 1 g of activated alumina were added to the filtrate, and it was hydrogenated at 200° C under a hydrogen pressure of 100 kg/cm2 for three days to give 7.7 g of squalane.

reactant | 2,6,10,15,19,23-hexamethyltetracosa-11,13-diyne-10,15-diol | 10 g | CC(C)CCCC(CCCC(C#CC#CC(CCCC(CCCC(C)C)C)(O)C)(O)C)C | C30H54O2
catalyst | Raney nickel | [Ni] | Ni
solvent | ethyl alcohol | 20 ml | C(C)O | C2H6O
product | 2,6,10,15,19,23-hexamethyltetracosane-10,15-diol | CC(C)CCCC(CCCC(CCCCC(CCCC(CCCC(C)C)C)(O)C)(O)C)C | C30H62O2
